US07074819B2
Step 1) Synthesis of 4-hydroxy-4-{4-[2-(2-chloroethoxy)ethoxy]phenyl}-7-(methoxymethoxy)-3-[4-(methoxymethoxy)phenyl]chroman
4-Hydroxy-4-(4-hydroxyphenyl)-7-(methoxymethoxy)-3-[4-(methoxymethoxy)phenyl]chroman (770 mg, 1.4 mmol), bis-(2-chloroethyl)ether (810 mg, 5.7 mmol), potassium carbonate (782 mg, 5.7 mmol) and 18-crown-6(132 mg, 0.49 mmol) were dissolved in dry N,N-dimethylformamide (10 mL) under argon atmosphere, which was then stirred at 100° C. for 2.5 hours. The reaction solution was cooled down to normal temperature, water was added thereto, and the mixture was extracted with ethyl acetate. The organic extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to flash column chromatography (n-hexane:ethyl acetate=2:1) to give the title compound (0.71 g, yield 35%) as a red oil.

reactant | 4-Hydroxy-4-(4-hydroxyphenyl)-7-(methoxymethoxy)-3-[4-(methoxymethoxy)phenyl]chroman | 1.4 mmol, 770 mg | OC1(C(COC2=CC(=CC=C12)OCOC)C1=CC=C(C=C1)OCOC)C1=CC=C(C=C1)O | C25H26O7
reactant | bis-(2-chloroethyl)ether | 5.7 mmol, 810 mg | ClCCOCCCl | C4H8Cl2O
reactant | potassium carbonate | 5.7 mmol, 782 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6 | 0.49 mmol, 132 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-hydroxy-4-{4-[2-(2-chloroethoxy)ethoxy]phenyl}-7-(methoxymethoxy)-3-[4-(methoxymethoxy)phenyl]chroman | 0.71 g, yield 35% | OC1(C(COC2=CC(=CC=C12)OCOC)C1=CC=C(C=C1)OCOC)C1=CC=C(C=C1)OCCOCCCl | C29H33ClO8
